US08802684B2
6-Amino-2-(butyloxy)-9-[3-(1-ethyl-2-piperidinyl)propyl]-7,9-dihydro-8H-purin-8-one
A portion of this solution (0.12 ml, equivalent to 0.12 mmol) was added to a test tube. 2-(Butyloxy)-8-(methyloxy)-9-[3-(2-piperidinyl)propyl]-9H-purin-6-amine (435 mg, 1.2 mmol) was dissolved in DMF (6.0 ml) and an aliquot (0.5 ml, 0.1 mmole) dispensed to the tube. DIPEA (40 μL, 0.23 mmol) was added, and heated to 50° C. for 18 hours. An additional aliquot of 1-iodoethane in acetonitrile (80 uL, 0.08 mmol) (total added 0.2 mmol) and DIPEA (40 uL, 0.23 mmol) was added and continued stirring with heat at 50° C. for a further 18 hours. DMSO:MeOH (200 uL) was added, the mixture filtered and purified by Mass Directed AutoPrep (Method A). The solvent was evaporated in vacuo using the Genevac. The residue was redissolved in a solution of 4M HCl/dioxane (0.2 ml) and allowed to stand at room temperature for 4 hours. The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus. The material was redissolved in methanol (0.5 ml) and applied to an aminopropyl SPE (0.1 g, 3 ml, preconditioned in methanol (1.5 ml)). The product was eluted with additonal methanol (1.5 ml). The solvent was removed to give the title compound (6 mg).

reactant | 2-(Butyloxy)-8-(methyloxy)-9-[3-(2-piperidinyl)propyl]-9H-purin-6-amine | 1.2 mmol, 435 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCC1NCCCC1)OC)N | C18H30N6O2
reactant | DIPEA | 0.23 mmol, 40 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-iodoethane | ICC | C2H5I
reactant | acetonitrile | 0.08 mmol, 80 uL | C(C)#N | C2H3N
reactant | DIPEA | 0.23 mmol, 40 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6.0 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 200 uL | CO | CH4O
solvent | DMSO | CS(=O)C | C2H6OS
product | 6-Amino-2-(butyloxy)-9-[3-(1-ethyl-2-piperidinyl)propyl]-7,9-dihydro-8H-purin-8-one | 6 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCC1N(CCCC1)CC)=O | C19H32N6O2
